US07414060B2
6-Methyl-3-(2-methyl-2H-pyrazol-3-ylamino)-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide
The title compound, was prepared from 6-Methyl-3-(2-methyl-2H-pyrazol-3-ylamino)-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 75, step 2 using 4-Amino-2-methylthiazole instead of 3-Amino-1-methyl-pyrazole to yield the final compound as a light brown solid, MS (ISP): m/e=329.1 (M+H+).

reactant | 6-Methyl-3-(2-methyl-2H-pyrazol-3-ylamino)-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC=C1NC=1N(N=CC1)C)C | C13H16N4O2
reactant | 4-Amino-2-methylthiazole | NC=1N=C(SC1)C | C4H6N2S
product | 6-Methyl-3-(2-methyl-2H-pyrazol-3-ylamino)-pyridine-2-carboxylic acid (2-methyl-thiazol-4-yl)-amide | CC=1SC=C(N1)NC(=O)C1=NC(=CC=C1NC=1N(N=CC1)C)C | C15H16N6OS
